US06953790B2
Step B. N′-Cyano-N-[(3R,6S)-6-(2,3-difluorophenyl)-1-ethyl-2-oxoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboximidamide
A solution of phenyl N′-cyano-N-[(3R,6S)-6-(2,3-difluorophenyl)-1-ethyl-2-oxoazepan-3-yl]imidocarbamate (166 mg, 0.402 mmol) and 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (116 mg, 0.402 mmol), in 1-pentanol (10 mL) was treated with N,N-diisopropylethylamine (52 mg, 0.402 mmol). This mixture was heated to reflux for 24 h. Concentration and purification by silica gel chromatography (0%→10% methanol/dichloromethane) followed by reverse phase HPLC (C-18, 95% water/ acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (10 mg). MS 537.5 (M+1).

reactant | phenyl N′-cyano-N-[(3R,6S)-6-(2,3-difluorophenyl)-1-ethyl-2-oxoazepan-3-yl]imidocarbamate | 0.402 mmol, 166 mg | C(#N)N=C(N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC)=O)OC1=CC=CC=C1 | C22H22F2N4O2
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.402 mmol, 116 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | N,N-diisopropylethylamine | 0.402 mmol, 52 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-pentanol | 10 mL | C(CCCC)O | C5H12O
product | N′-Cyano-N-[(3R,6S)-6-(2,3-difluorophenyl)-1-ethyl-2-oxoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboximidamide | 10 mg | C(#N)N=C(N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC)=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C27H30F2N8O2
